data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_31245_2,[C:1]([O:6][C:3]([N:2]([N:4]([H:8])[H:9])[H:7])=[C:5]([H:13])[H:14])([H:10])([H:11])[H:12]>>[C:1]([C:5]([C:3]([N:2]([N:4]([H:8])[H:9])[H:7])=[O:6])([H:13])[H:14])([H:10])([H:11])[H:12],62.20658499995949
MR_318440_0,[C@@:1]([C:2]([H:13])([H:14])[H:15])([C:4]([N:6]([H:11])[H:12])=[O:8])([C:5]([C:3]([H:16])([H:17])[H:18])=[O:9])[O:7][H:10]>>[C@:1]([C:2]([H:13])([H:14])[H:15])([C:4]([C:5]([C:3]([H:16])([H:17])[H:18])=[O:9])=[O:8])([N:6]([H:11])[H:12])[O:7][H:10],67.90428499994889
MR_71470_1,[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([H:16])([H:17])[H:18])(/[C:4](=[C:5](/[O:8][H:11])[H:12])[O:7][H:10])[O:6][H:9]>>[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([H:16])([H:17])[H:18])=[C:4]([C:5]([O:6][H:9])([O:8][H:11])[H:12])[O:7][H:10],53.34879500002998
MR_320856_2,[C:1]([C:2]([N:3]([H:9])[H:10])([N:4]([H:11])[H:12])[O:6][H:7])(=[O:5])[H:8]>>[C:1]([C:2]([N:3]([H:9])[H:10])=[O:6])([N:4]([H:11])[H:12])([O:5][H:7])[H:8],30.86358750001424
MR_536960_2,[C:1]([N:2]([C:4]1([C:3]([O:7][H:10])=[O:9])[C:5](=[C:6]([H:16])[H:17])[N:8]1[H:12])[H:11])([H:13])([H:14])[H:15]>>[C:1]([N:2]([C:5](/[C:4]([C:3]([O:7][H:10])=[O:9])=[N:8]\[H:12])=[C:6]([H:16])[H:17])[H:11])([H:13])([H:14])[H:15],61.05700500000836
MR_66823_1,[C:1](/[N:7]=[C:4]([C:5](=[C:3](/[C:2]([H:14])([H:15])[H:16])[O:6][H:8])/[H:10])\[H:9])([H:11])([H:12])[H:13]>>[C:1]([N:7]1[C:3]([C:2]([H:14])([H:15])[H:16])([O:6][H:8])[C:5]([H:10])=[C:4]1[H:9])([H:11])([H:12])[H:13],45.384565000020274
MR_280652_0,[C:1]([C:2]([H:13])([H:14])[H:15])([C:4]([N:3]([O:6][H:8])[H:9])=[O:7])([N:5]([H:11])[H:12])[H:10]>>[C:1]([N:3]([O:6][H:8])[H:9])([C:4]([C:2]([H:13])([H:14])[H:15])=[O:7])([N:5]([H:11])[H:12])[H:10],63.4120125000193
MR_160994_0,[C:1]1([C:4]([H:14])([H:15])[H:16])=[C:7]([O:9][C:8]([C:5]([H:17])([H:18])[H:19])=[O:10])[C:2]([C:6]([H:20])([H:21])[H:22])([H:11])[C:3]1([H:12])[H:13]>>[C:1]1([C:4]([H:14])([H:15])[H:16])([C:7]([C:8]([C:5]([H:17])([H:18])[H:19])=[O:10])=[O:9])[C:2]([C:6]([H:20])([H:21])[H:22])([H:11])[C:3]1([H:12])[H:13],57.89816999999374
MR_505876_1,[C:1](/[C:4](=[C:3]([C:5](/[C:2]([H:15])([H:16])[H:17])=[N:8]/[H:11])\[O:6][H:9])[O:7][H:10])([H:12])([H:13])[H:14]>>[C:1](/[C:3](=[C:4]([C:5](/[C:2]([H:15])([H:16])[H:17])=[N:8]/[H:11])\[O:7][H:10])[O:6][H:9])([H:12])([H:13])[H:14],46.34589499998299
MR_4398_0,[C:1]([C:3]([H:13])([H:14])[H:15])(/[C:4]([O:5][H:7])=[N:6]/[C:2]([H:10])([H:11])[H:12])([H:8])[H:9]>>[C:1](\[C:3]([H:13])([H:14])[H:15])(=[C:4](/[O:5][H:7])[N:6]([C:2]([H:10])([H:11])[H:12])[H:9])[H:8],68.85306499997895
MR_388802_0,[C@@:1]([C:2]([O:8][H:12])([H:13])[H:14])([C:3]([H:15])([H:16])[H:17])([N:4]([O:5][H:9])[O:6][H:10])[O:7][H:11]>>[C:1]([C:2]([N:4]([O:5][H:9])[O:6][H:10])([H:13])[H:14])([C:3]([H:15])([H:16])[H:17])([O:7][H:11])[O:8][H:12],69.12477249997067
MR_454338_1,[C:1](/[C:2]([O:6][H:9])=[N:7]/[N:3]([H:11])[H:12])([N:4]([H:13])[H:14])([C:5](=[O:8])[H:15])[H:10]>>[C:1](=[C:2](\[O:6][H:9])[N:7]([N:3]([H:11])[H:12])[C:5](=[O:8])[H:15])(\[N:4]([H:13])[H:14])[H:10],43.617524999987296
MR_472811_1,[C:1]([N:3]([H:9])[H:10])(=[O:5])[N:6]1[C:2]([C:4](=[O:8])[H:11])=[N:7]1>>[c:1]1([N:3]([H:9])[H:10])[o:5][c:2]([C:4](=[O:8])[H:11])[n:7][n:6]1,70.1576374999668
MR_124239_1,[C:1]([N:3](/[C:4]([C:2]([H:16])([H:17])[H:18])=[C:6](/[N:5]([H:9])[H:10])[H:11])[C:7](=[C:8]([H:19])[H:20])[H:12])([H:13])([H:14])[H:15]>>[C:1](/[N:3]=[C:4](/[C:2]([H:16])([H:17])[H:18])[C:6]([N:5]([H:9])[H:10])([C:7](=[C:8]([H:19])[H:20])[H:12])[H:11])([H:13])([H:14])[H:15],70.02774500000939
MR_590629_0,[C:1]1([N:3]([H:9])[H:10])([H:8])[N:2]([H:7])[O:5][C:4]([H:11])=[N:6]1>>[C:1](\[N:3]([H:9])[H:10])(=[N:6]/[C:4]1([H:11])[N:2]([H:7])[O:5]1)[H:8],54.63328749999718
MR_312182_0,[C:1]([C:3]([H:17])([H:18])[H:19])([N:5]([C:2]([H:14])([H:15])[H:16])/[C:6]([N:4]([O:7][H:10])[H:9])=[N:8]/[H:11])([H:12])[H:13]>>[C:1]([C:3]([H:17])([H:18])[H:19])([O:7][N:4](/[C:6]([N:5]([C:2]([H:14])([H:15])[H:16])[H:10])=[N:8]\[H:11])[H:9])([H:12])[H:13],63.16415000000305
MR_162046_0,[C:1]([C:2](/[N:8]=[C:5](/[C:3]([H:16])([H:17])[H:18])[O:7][H:10])([H:14])[H:15])([N:4]([O:6][H:9])[H:11])([H:12])[H:13]>>[C:1]1([H:12])([H:13])[C:2]([H:14])([H:15])[N:8]1[C:5]([C:3]([H:16])([H:17])[H:18])([N:4]([O:6][H:9])[H:11])[O:7][H:10],70.10053500003963
MR_17831_2,[C:1]([O:5][C:3]([C:2]([H:9])([H:10])[H:11])=[C:4]([H:12])[H:13])([H:6])([H:7])[H:8]>>[C:1]([O:5]/[C:4](=[C:3](\[C:2]([H:9])([H:10])[H:11])[H:13])[H:12])([H:6])([H:7])[H:8],59.39789500000607
MR_136525_0,[C:1]([N:2](/[C:3]([N:4]([H:8])[H:9])=[N:6]/[H:10])/[C:5](=[N:7]\[H:11])[H:12])([H:13])([H:14])[H:15]>>[C:1](/[N:2]=[C:3](/[N:4]([H:8])[H:9])[N:6](/[C:5](=[N:7]\[H:11])[H:12])[H:10])([H:13])([H:14])[H:15],44.47845499998948
MR_524844_2,[C:1]([C:4]([N:3](/[C:5]([C:2]([H:15])([H:16])[H:17])=[C:6](/[O:7][H:9])[H:11])[H:10])=[O:8])([H:12])([H:13])[H:14]>>[C:1]([C:4]([C:6](/[C:5]([C:2]([H:15])([H:16])[H:17])=[N:3]\[H:10])([O:7][H:9])[H:11])=[O:8])([H:12])([H:13])[H:14],68.19858249999058
